### PR TITLE
[Merged by Bors] - feat: simplify equality of nat literals

### PR DESCRIPTION
**Pull request by urkud**
If `M` has characteristic zero, then we simplify, e.g., `(2 : M) = 10` to `(2 : ℕ) = 10`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CharZero/Defs.lean [hunk 1]
```diff
@@ -99,10 +99,37 @@ theorem cast_ne_one {n : ℕ} : (n : R) ≠ 1 ↔ n ≠ 1 :=
...
+  (ofNat_ne_zero n).symm
+
+@[simp] lemma ofNat_ne_one (n : ℕ) [h : n.AtLeastTwo] : (ofNat n : R) ≠ 1 := by
+  rw [← Nat.cast_eq_ofNat, ← @Nat.cast_one R, Ne.def, Nat.cast_inj]
+  exact ne_of_gt h.prop
+
+@[simp] lemma one_ne_ofNat (n : ℕ) [n.AtLeastTwo] : (1 : R) ≠ ofNat n :=
+  (ofNat_ne_one n).symm
+
+@[simp] lemma ofNat_eq_ofNat {m n : ℕ} [m.AtLeastTwo] [n.AtLeastTwo] :
```
Comment (jcommelin) [inline Mathlib/Algebra/CharZero/Defs.lean:119]: Why does this need the `AtLeastTwo` assumptions?

File: Mathlib/Algebra/CharZero/Defs.lean [hunk 2]
```diff
@@ -99,10 +99,37 @@ theorem cast_ne_one {n : ℕ} : (n : R) ≠ 1 ↔ n ≠ 1 :=
...
+
+end OfNat
+
 namespace NeZero
 
 instance charZero {M} {n : ℕ} [NeZero n] [AddMonoidWithOne M] [CharZero M] : NeZero (n : M) :=
   ⟨Nat.cast_ne_zero.mpr out⟩
 #align ne_zero.char_zero NeZero.charZero
 
+instance charZero_ofNat {M} {n : ℕ} [n.AtLeastTwo] [AddMonoidWithOne M] [CharZero M] :
```
Comment (jcommelin) [inline Mathlib/Algebra/CharZero/Defs.lean:131]: Idem

File: Mathlib/Data/Nat/Cast/Defs.lean [hunk 3]
```diff
@@ -66,6 +66,8 @@ instance [NatCast R] [Nat.AtLeastTwo n] : OfNat R n where
 @[simp, norm_cast] theorem Nat.cast_ofNat [NatCast R] [Nat.AtLeastTwo n] :
   (Nat.cast (OfNat.ofNat n) : R) = OfNat.ofNat n := rfl
 
+theorem Nat.cast_eq_ofNat [NatCast R] [Nat.AtLeastTwo n] : (Nat.cast n : R) = OfNat.ofNat n := rfl
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Cast/Defs.lean:69]: Idem

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
